US08258130B2
A solution of 5-fluoroindole (10.5 g, 78 mmol) in MeCN (150 mL) at 0° C. is treated with methyl vinyl ketone (9.5 mL, 117 mmol) and Sc(OTf)3 (383 mg, 0.78 mmol) and stirred for 1 h. The mixture is then stirred an additional 6 h at rt. The mixture is concentrated in vacuo. The residue is purified by silica gel chromatography eluting with 10%-50% EtOAc in heptane to afford 4-(5-fluoro-1H-indol-3-yl)-butan-2-one (11.1 g, 70%).

reactant | 5-fluoroindole | 78 mmol, 10.5 g | FC=1C=C2C=CNC2=CC1 | C8H6FN
reactant | methyl vinyl ketone | 117 mmol, 9.5 mL | C(=C)C(=O)C | C4H6O
solvent | MeCN | 150 mL | CC#N | C2H3N
catalyst | Sc(OTf)3 | 0.78 mmol, 383 mg | C(F)(F)(F)S(=O)(=O)[O-].C(F)(F)(F)S(=O)(=O)[O-].C(F)(F)(F)S(=O)(=O)[O-].[Sc+3]
product | 4-(5-fluoro-1H-indol-3-yl)-butan-2-one | 11.1 g, 70% | FC=1C=C2C(=CNC2=CC1)CCC(C)=O | C12H12FNO
